datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]#[C:16][C:17]([H:21])([H:22])[H:23])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:18])([H:19])[H:20])=[C:16][C:17]([H:21])([H:22])[H:23])[H:7])([H:5])[H:6],59.873
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[c:10]1([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:16])([H:3])([H:4])[H:5].[c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],74.3497
[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:15])([H:16])[H:17].[C:27]([H:28])([H:29])[H:30]>>[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:16])[H:17].[H:15][C:27]([H:28])([H:29])[H:30],45.7296
[C:0]([O:1][H:4])([H:2])[H:3].[O:5]>>[C:0](=[O:1])([H:2])[H:3].[H:4][O:5],0.0
[C:3]([O:4][O:5][H:8])([H:6])[H:7].[O:0]=[C:1]=[O:2]>>[O:0]([C:1]=[O:2])[C:3]([O:4][O:5][H:8])([H:6])[H:7],153.096744
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:3])[H:6])([H:4])[H:5],168.615
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:19])[H:20])[H:18]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:19])([H:5])([H:6])[H:7].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])[H:20])[H:18],59.2454
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6][O:7]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:6][O:7],251.082
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[C:26]([H:27])([H:28])[H:29],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:25][O:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:8][O:25][O:26],0.0
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([C:10]([H:18])([H:19])[H:20])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])([H:11])([H:12])[H:13],18.828
[C:0]([S:1][S:2][S:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[H:11]>>[C:0]([S:1])([H:5])([H:6])[H:7].[S:2]([S:3][C:4]([H:8])([H:9])[H:10])[H:11],6.6944
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[H:9])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8],151.042
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9](=[C:8]([H:12])[H:13])[C:10](=[C:11]([H:15])[H:16])[H:14],51.8816
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13](=[S:14])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11](=[C:12]([C:13]=[S:14])[H:17])([H:15])[H:16],89.956
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11](=[C:12]([H:14])[H:15])[H:13],36.9029
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([O:12][H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([O:12][H:15])([H:13])[H:14],50.1243
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([O:15][O:16])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:16][O:15][C:14]([C:13]([C:12]([H:17])([H:18])[H:19])([H:20])[H:21])([H:22])[H:23],62.3416
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7]>>[C:0]([C:1]1([H:8])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:9],61.015272
